US09278983B2
A mixture of 3-methyl-2-(2-propylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.22 g), sodium periodate (0.27 g), methanol (2 ml), and water (4 ml) was stirred with heating at 40° C. for 1.5 hours. To the reaction mixture cooled to room temperature, saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium thiosulfate solution were added, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.17 g of 3-methyl-2-(2-propylsulfinylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 8).

reactant | 3-methyl-2-(2-propylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.22 g | CN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=CC=C2)SCCC | C17H16F3N3S
reactant | sodium periodate | 0.27 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 4 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 3-methyl-2-(2-propylsulfinylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.17 g | CN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=CC=C2)S(=O)CCC | C17H16F3N3OS
